US07777047B2
ethyl 2-[(4-methoxy-2-nitrophenyl)hydrazono]propanoate
A mixture of ethyl 2-[(4-hydroxy-2-nitrophenyl)hydrazono]propanoate (30 g), methyl iodide (21.3 g), potassium carbonate (21 g) and N,N-dimethylformamide (300 mL) was stirred at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with 1N hydrochloric acid and saturated brine, dried (MgSO4), and concentrated. The obtained residue was crystallized from diethyl ether to give the title compound (28 g, yield 89%) as orange crystals. MS: 282 (MH+).

reactant | ethyl 2-[(4-hydroxy-2-nitrophenyl)hydrazono]propanoate | 30 g | OC1=CC(=C(C=C1)NN=C(C(=O)OCC)C)[N+](=O)[O-] | C11H13N3O5
reactant | methyl iodide | 21.3 g | CI | CH3I
reactant | potassium carbonate | 21 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 2-[(4-methoxy-2-nitrophenyl)hydrazono]propanoate | 28 g, yield 89% | COC1=CC(=C(C=C1)NN=C(C(=O)OCC)C)[N+](=O)[O-] | C12H15N3O5
